US08252833B2
{4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetic acid
A suspension of ethyl {-4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate (200.0 g, 443 mmol) in a mixture of glacial acetic acid (2080 mL) and hydrochloric acid (2 M, 700 mL) was heated to reflux under a nitrogen atmosphere, with the reaction progress monitored by TLC analysis (silica, dichloromethane:methanol, 99:1). After 60 minutes the reaction mixture was cooled to 0° C. The precipitated solid was isolated by filtration, washed with water (1400 mL), and freeze-dried to give the desired product as an off-white solid (163.4 g, 87% yield).

reactant | ethyl {-4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate | 443 mmol, 200.0 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC(=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H26FNO5
reactant | acetic acid | 2080 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2 M, 700 mL | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | {4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetic acid | 163.4 g, 87% yield | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC(=C(C=C1)CC(=O)O)F)=O)OCC)C=CC=C2 | C24H22FNO5
